US07795288B2
[5-(3-Bromo-phenyl)-thiazol-2-yl]-[4-(2-diethylamino-ethoxy)-phenyl]-amine
The title compound is prepared as described in Example 8 for {5-[4-(3-dimethylamino-propoxy)-phenyl]-thiazol-2-yl}-phenyl-amine but starting from 4-[5-(3-bromo-phenyl)-thiazol-2-ylamino]-phenol and using (2-chloroethyl)-diethylamine hydrochloride. After stirring the reaction mixture for 30 min at 70° C., purification of the crude material by silica gel column chromatography (CH2Cl2/MeOH, 95/5 then 90/10) affords the title compound: ES-MS: 447.9 [M+2]+; single peak at tR=3.77 min (System 2); Rf=0.14 (CH2Cl2/MeOH, 90/10).

reactant | {5-[4-(3-dimethylamino-propoxy)-phenyl]-thiazol-2-yl}-phenyl-amine | CN(CCCOC1=CC=C(C=C1)C1=CN=C(S1)NC1=CC=CC=C1)C | C20H23N3OS
reactant | 4-[5-(3-bromo-phenyl)-thiazol-2-ylamino]-phenol | BrC=1C=C(C=CC1)C1=CN=C(S1)NC1=CC=C(C=C1)O | C15H11BrN2OS
reactant | (2-chloroethyl)-diethylamine hydrochloride | Cl.ClCCN(CC)CC
product | [5-(3-Bromo-phenyl)-thiazol-2-yl]-[4-(2-diethylamino-ethoxy)-phenyl]-amine | BrC=1C=C(C=CC1)C1=CN=C(S1)NC1=CC=C(C=C1)OCCN(CC)CC | C21H24BrN3OS
